US06677347B2
A solution of the compound of Example 51, 1-[2-(2-aminoethoxy)ethyl]-2-methyl-1H-imidazo[4,5-c]quinolin-4-amine (1.570 g, 5.50 mmol) in 40 mL of 1-methyl-2-pyrrolidinone was treated with triethylamine (1.53 mL, 11.0 mmol). With vigorous stirring, methanesulfonyl chloride (0.426 mL, 5.50 mmol) was added dropwise. After 18 h, the reaction was treated with 50 mL of water and then concentrated to yield a solid. The solid was purified by column chromatography (SiO2, 90:10:0.5 CHCl3:MeOH:NH4OH) to yield 244 mg of N-{2-[2-(4-amino-2-methyl-1H-imidazo[4,5-c]quinolin-1-yl)ethoxy]ethyl}methanesulfonamide as a white solid.

reactant | 1-[2-(2-aminoethoxy)ethyl]-2-methyl-1H-imidazo[4,5-c]quinolin-4-amine | 5.50 mmol, 1.570 g | NCCOCCN1C(=NC=2C(=NC=3C=CC=CC3C21)N)C | C15H19N5O
reactant | triethylamine | 11.0 mmol, 1.53 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 5.50 mmol, 0.426 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | water | 50 mL | O | H2O
solvent | 1-methyl-2-pyrrolidinone | 40 mL | CN1C(CCC1)=O | C5H9NO
product | N-{2-[2-(4-amino-2-methyl-1H-imidazo[4,5-c]quinolin-1-yl)ethoxy]ethyl}methanesulfonamide | 244 mg | NC1=NC=2C=CC=CC2C2=C1N=C(N2CCOCCNS(=O)(=O)C)C | C16H21N5O3S
